US07662771B2
Heat a mixture of ammonium acetate (16.5 g, 214 mmol) and 7-[2-(2-methoxyphenyl)-2-oxoethylcarbamoyl]heptanoic acid methyl ester (14.2 g, 42.3 mmol) in acetic acid (300 mL) at reflux under nitrogen for 15 hours. Remove the solvent under reduced pressure. Dilute the residue in ethyl acetate (500 mL) and adjust to pH 8 with saturated aqueous sodium bicarbonate solution. Extract the aqueous layer with additional. ethyl acetate (200 mL) and dry the combined organic extracts over sodium sulfate and remove the solvent under reduced pressure. Purify the residue by flash column chromatography on silica gel, eluting with ethyl acetate, to afford 7-[5-(2-methoxyphenyl)-1H-imidazol-2-yl]heptanoic acid methyl ester (5.86 g, 44%): APCI mass spectrum m/z 317 [C18H24N2O3+H]+.

reactant | ammonium acetate | 214 mmol, 16.5 g | C(C)(=O)[O-].[NH4+]
reactant | 7-[2-(2-methoxyphenyl)-2-oxoethylcarbamoyl]heptanoic acid methyl ester | 42.3 mmol, 14.2 g | COC(CCCCCCC(NCC(=O)C1=C(C=CC=C1)OC)=O)=O | C18H25NO5
solvent | acetic acid | 300 mL | C(C)(=O)O | C2H4O2
product | 7-[5-(2-methoxyphenyl)-1H-imidazol-2-yl]heptanoic acid methyl ester | 5.86 g, 44% | COC(CCCCCCC=1NC(=CN1)C1=C(C=CC=C1)OC)=O | C18H24N2O3
